US07053212B2
Step A: 3-(Tetrahydro-pyran-2-yloxy)-benzaldehyde
To a solution of 3-hydroxy-benzaldehyde (6.51 g, 53.3 mmol) and 3,4-dihydro-2H-pyran (7.3 mL, 80.0 mmol) in 150 mL methylene chloride was added pyridinium p-toluenesulfonate (1.34 g, 5.33 mmol). The reaction mixture was stirred at room temperature overnight. The layers were separated and the organic layer was washed with saturated aqueous sodium bicarbonate. The organic layer was dried (magnesium sulfate), filtered, and concentrated. Medium pressure silica gel chromatography of the residue (5% ethyl acetate/hexanes to 10% ethyl acetate/hexanes) aforded 10.34 g (94%) of the title compound of Step A.

reactant | 3-hydroxy-benzaldehyde | 53.3 mmol, 6.51 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | 3,4-dihydro-2H-pyran | 80.0 mmol, 7.3 mL | O1CCCC=C1 | C5H8O
reactant | pyridinium p-toluenesulfonate | 5.33 mmol, 1.34 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | 3-(Tetrahydro-pyran-2-yloxy)-benzaldehyde | O1C(CCCC1)OC=1C=C(C=O)C=CC1 | C12H14O3
